US05631373
N-(5'-Chloro-4'-fluoro-2'-nitrophenyl)glycine sodium salt.
To a stirred solution of 1-chloro-2,5-difluoro-4-nitrobenzene (0.825 g, 4.26 mmol) in ethanol (8.0 mL), was added a solution of sodium glycinate (0.415 g, 4.27 mmol) in water (1.5 mL). The resulting suspension was refluxed for 60 h. The solution was cooled to room temperature and the precipitated bright orange solid was filtered, washed with cold ethanol (5 mL), and dried under vacuum to give 0.673 g (64%) title compound as a bright orange powder; 1H NMR (DMSO-d6) δ3.50 (d, 2H, J=3.6 Hz), 7.04 (d, 1H, J=6.6 Hz), 8.01 (d, 1H J=9.9 Hz), 8.74 (s, 1H). The unreacted 1-chloro-2,5-difluoro-4-nitrobenzene was recovered almost quantitatively from the filtrate.

reactant | 1-chloro-2,5-difluoro-4-nitrobenzene | 4.26 mmol, 0.825 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2ClF2NO2
reactant | sodium glycinate | 4.27 mmol, 0.415 g | NCC(=O)[O-].[Na+]
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
solvent | water | 1.5 mL | O | H2O
product | N-(5'-Chloro-4'-fluoro-2'-nitrophenyl)glycine sodium salt | 0.673 g, 64% | [Na+].ClC=1C(=CC(=C(C1)NCC(=O)[O-])[N+](=O)[O-])F | InChI=1S/C8H6ClFN2O4.Na/c9-4-1-6(11-3-8(13)14)7(12(15)16)2-5(4)10;/h1-2,11H,3H2,(H,13,14);/q;+1/p-1
